US04560749
Methyl 7β-acetamido-3-azido-3-cephem-4-carboxylate
A solution of 0.784 g. of methyl 7β-acetamido-3-chloro-3-cephem-4-carboxylate in 40 ml. of DMF was cooled to 5° C. in an ice bath and 0.193 g. of sodium azide were added. The reaction mixture was stirred in the cold for 45 minutes and then transferred to a separatory funnel with ethyl acetate. The mixture was washed with cold water, with brine, and was dried and evaporated to dryness. There were obtained 0.581 g. of the 3-azido ester product as a yellow solid.

reactant | methyl 7β-acetamido-3-chloro-3-cephem-4-carboxylate | C(C)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)OC)C1=O | C10H11ClN2O4S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 7β-acetamido-3-azido-3-cephem-4-carboxylate | C(C)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)N=[N+]=[N-])C(=O)OC)C1=O | C10H11N5O4S
